US04596816
Sodium cyannide (1.18 g) was dissolved in dimethyl sulfoxide (40 ml) and, under stirring, a solution of 5-(2-iodoethyl)-4-phenyloxazole (6.0 g) in dimethyl sulfoxide (20 ml) was added dropwise. The mixture was stirred for 2 hours, followed by addition of ice-water and extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the residual crude 4-phenyloxazole-5-propionitrile was dissolved in a mixture of ethanol (40 ml) and 2N sodium hydroxide (40 ml) and the solution was refluxed under stirring for 2 hours. The reaction mixture was concentrated, diluted with water and washed with dichloromethane. The aqueous layer was adjusted to pH 2 with hydrochloric acid and the resulting crystalline precipitate was collected by filtration and recrystallized from ethyl acetate and then from ethanol to give 4-phenyloxazole-5-propionic acid as prisms, yield 0.95 g (21.8%), m.p. 142°-143° C.

reactant | Sodium | [Na] | Na
reactant | 5-(2-iodoethyl)-4-phenyloxazole | 6.0 g | ICCC1=C(N=CO1)C1=CC=CC=C1 | C11H10INO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 4-phenyloxazole-5-propionic acid | C1(=CC=CC=C1)C=1N=COC1CCC(=O)O | C12H11NO3
